US06479504B1
A solution of 4-chloro-(2-napthyl) quinoline (420 mg, 1.4 mmol) in 3-aminopropanol (1.0 mL) was heated to 130° C. for 1.5 h under a nitrogen atmosphere. Treatment with water (2 mL) was followed by extraction of the mixture with AcOEt, drying of the extract with MgSO4, and concentration to give a residue of crude N-(3-hydroxypropyl)-2-(2-naphthyl)quinolin-4-amine. This compound was purified by silica gel chromatography eluting with CH2Cl2/MeOH (5:1) followed by crystallization of its hydrobromide salt; yield 82% of C22H20N2O.HBr.H2O; mp 230-235° C. Anal. Calcd for C22H20N2O.HBr.H2O: C, 61.82: H, 5.43; N, 6.55. Found: C, 61.98; H, 5.28; N, 6.49.

reactant | 4-chloro-(2-napthyl) quinoline | 1.4 mmol, 420 mg | ClC1=CC(=NC2=CC=CC=C12)C1=CC2=CC=CC=C2C=C1 | C19H12ClN
reactant | 3-aminopropanol | 1.0 mL | NCCCO | C3H9NO
product | N-(3-hydroxypropyl)-2-(2-naphthyl)quinolin-4-amine | OCCCNC1=CC(=NC2=CC=CC=C12)C1=CC2=CC=CC=C2C=C1 | C22H20N2O
